US04558155
To a solution of 20.5 g (0.095 mole) of 2-[4-(methylsulfonyl)phenoxy]ethanol (m.p. 96°-98° C.) [prepared by reacting 2-chloroethanol with 4-(methylthio)phenol and potassium carbonate, isolating the 2-[4-(methylthio)phenoxy]ethanol, m.p. 55°-56.5° C. and oxidizing with metachloroperoxybenzoic acid] and 12.25 g (0.12 mole) of triethylamine in a mixture of 200 ml of benzene and 500 ml of methylene chloride was slowly added a solution of 14.31 g (0.125 mole) of mesyl chloride in methylene chloride and the solution was stirred at room temperature for about 2 hr. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride layer was dried over magnesium sulfate and the solvent was removed in vacuo to give a residue. The residue was dissolved in a mixture of 100 ml of acetonitrile and 300 ml of isopropylamine and the solution stirred at room temperature for about 60 hr. The solvent was removed in vacuo and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride phase was extracted with dilute sulfuric acid. The acidic extract was made basic with 50% sodium hydroxide and the resulting solution was extracted with methylene chloride. The methylene chloride solution was dried over magnesium sulfate and the solvent removed in vacuo to give 17.45 g (62.7%) of the free base of the title compound as a solid. Part of the free base was converted to the hydrochloride salt and the salt was recrystallized from methanol-diethyl ether to give white crystals, m.p. 182°-184° C.

reactant | 2-[4-(methylsulfonyl)phenoxy]ethanol | 0.095 mole, 20.5 g | CS(=O)(=O)C1=CC=C(OCCO)C=C1 | C9H12O4S
reactant | 2-chloroethanol | ClCCO | C2H5ClO
reactant | 4-(methylthio)phenol | CSC1=CC=C(C=C1)O | C7H8OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-[4-(methylthio)phenoxy]ethanol | CSC1=CC=C(OCCO)C=C1 | C9H12O2S
